US04563306
(3S)-6,7-Dihydroxy-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid [J. Org. Chem., 26, 3533 (1961)] (33.9 g) and sodium borate.10H2O (62 g) are suspended in water (500 ml). Benzoyl chloride (27.5 g) and a solution of sodium hydroxide (13 g) in water (100 ml) are added dropwise to the suspension at 0° C. under stirring. The mixture is stirred at room temperature for 4 hours. The mixture is washed with ethyl acetate, and acidified with conc. HCl, and extracted with ethyl acetate. The extract is dried and distilled to remove the solvent. The crystals are collected by filtration, washed with benzene and then recrystallized from water, whereby (3S)-2-benzoyl-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid (41.7 g) is obtained.

reactant | (3S)-6,7-Dihydroxy-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid | 33.9 g | OC=1C=C2C[C@H](NCC2=CC1O)C(=O)O | C10H11NO4
reactant | sodium borate | B([O-])([O-])[O-].[Na+].[Na+].[Na+]
reactant | Benzoyl chloride | 27.5 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | sodium hydroxide | 13 g | [OH-].[Na+]
solvent | water | 500 ml | O | H2O
solvent | water | 100 ml | O | H2O
product | (3S)-2-benzoyl-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid | 41.7 g | C(C1=CC=CC=C1)(=O)N1CC2=CC(=C(C=C2C[C@H]1C(=O)O)O)O | C17H15NO5
